US04212867
Preparation of 2-cyano-5-(3,5-dimethylphenyl)-1,3,4-oxadiazole (compound no. 1)
200 g of phosphorus oxychloride are added to a suspension of 189.5 g of 2-carbamoyl-5-(3,5-dimethylphenyl)-1,3,4-oxadiazole in 873 cm3 of anhydrous pyridine, in the course of one hour and whilst stirring. During this addition, the temperature of the reaction medium rises from 20° to 42° C. The stirring is continued for 4 hours, whilst allowing the temperature of the medium to return to 20° C. The reaction mixture is then poured into 8.7 liters of water and the precipitate which forms is filtered off, washed twice with 500 cm3 of water and then dried in the air. After recrystallization from isopropanol, 163 g of solid 2-cyano-5-(3,5-dimethylphenyl)-1,3,4-oxadiazole, which melts at 127° C., are obtained.

reactant | phosphorus oxychloride | 200 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-carbamoyl-5-(3,5-dimethylphenyl)-1,3,4-oxadiazole | 189.5 g | C(N)(=O)C=1OC(=NN1)C1=CC(=CC(=C1)C)C | C11H11N3O2
reactant | water | 8.7 liters | O | H2O
solvent | pyridine | 873 cm3 | N1=CC=CC=C1 | C5H5N
product | 2-cyano-5-(3,5-dimethylphenyl)-1,3,4-oxadiazole | C(#N)C=1OC(=NN1)C1=CC(=CC(=C1)C)C | C11H9N3O
